### ISSUE TITLE
Chapter 7: Misformalisations

### ISSUE THREAD

**Issue by pitmonticone** [mo271/formal_book#112]
The following theorems were negated by @Aristotle-Harmonic:

- `Theorem₂`

More specifically: 

```lean
import Mathlib
open Lean Meta Elab Tactic in
elab "revert_all" : tactic => do
  let goals ← getGoals
  let mut newGoals : List MVarId := []
  for mvarId in goals do
    newGoals := newGoals.append [(← mvarId.revertAll)]
  setGoals newGoals

open Lean.Elab.Tactic in
macro "negate_state" : tactic => `(tactic|
  (
    guard_goal_nums 1
    revert_all
    refine @(((by admit) : ∀ {p : Prop}, ¬p → p) ?_)
    try (push_neg; guard_goal_nums 1)
  )
)

theorem Theorem₂ (n : ℕ) : ∃ (M : Matrix (Fin n) (Fin n) ℤ),
    (∀ i j, M i j = -1 ∨ M i j = 1) ∧
    M.det > Real.sqrt n.factorial := by
  -- Wait, there's a mistake. We can actually prove the opposite.
  negate_state;
  -- Proof starts here:
  -- Consider the case when $n = 0$.
  use 0
  simp
```
